US07429659B2
(4-Isopropyl-piperazin-1-yl)-(5-piperidin-1-ylmethyl-furan-2-yl)-methanone.
5-(4-Isopropyl-piperazine-1-carbonyl)-furan-2-carbaldehyde. Vilsmeier reagent [(chloromethylene)dimethylammonium chloride, 0.820 g, 6.43 mmol] was suspended in DCM (30 mL) under nitrogen with stirring and cooled to 0° C. To this suspension was added 5-formyl-2-furancarboxylic acid (0.900 g, 6.43 mmol) and the combined mixture was stirred at 0° C. for 30 min. The mixture was warmed to rt, stirred for another 1.5 h, and filtered. The filtrate (containing 5-formyl-furan-2-carbonyl chloride) was set aside and maintained at 0° C. In a second flask, 1-isopropyl-piperizine dihydrochloride (1.28 g, 6.37 mmol) in DCM (15 mL) was cooled to 0° C. The solution was treated with TEA (2.250 g, 22.30 mmol) slowly and then was warmed to rt and stirred for 30 min. The reaction mixture was filtered and the filtrate was cooled to 0° C. This second filtrate was then treated dropwise with the previously prepared solution of 5-formyl-furan-2-carbonyl chloride at 0° C. The combined mixture was stirred at 0° C. for 30 min and then at rt for 1 h. The reaction mixture was cooled to 0° C. and filtered, and the filtrate was washed with H2O (2×15 mL), 0.5 N NaOH (1×15 mL), and satd. aq. NaCl (1×15 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concentrated to yield the desired product (1.40 g, 87%).

reactant | 5-(4-Isopropyl-piperazine-1-carbonyl)-furan-2-carbaldehyde | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(O1)C=O | C13H18N2O3
reactant | Vilsmeier reagent | 6.43 mmol, 0.820 g | C[N+](=CCl)C.[Cl-]
reactant | 5-formyl-2-furancarboxylic acid | 6.43 mmol, 0.900 g | C(=O)C1=CC=C(O1)C(=O)O | C6H4O4
reactant | 1-isopropyl-piperizine dihydrochloride | 6.37 mmol, 1.28 g | Cl.Cl.C(C)(C)N1CCNCC1
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (4-Isopropyl-piperazin-1-yl)-(5-piperidin-1-ylmethyl-furan-2-yl)-methanone | 1.40 g, 87% | C(C)(C)N1CCN(CC1)C(=O)C=1OC(=CC1)CN1CCCCC1 | C18H29N3O2
